US07598378B2
1st Step: 4-phenyl-3-morpholinone (VIII)
In a 26-liter tank, 1.65 kg (12.0 mol) of 2-anilinoethanol are dissolved at room temperature in 1.53 l of ethanol and subsequently admixed with 4.58 l of water with stirring. The solution is heated to 38° C. 4.07 kg (3.0 equivalents) of chloroacetyl chloride and 6.60 kg of 45% sodium hydroxide solution (6.2 equivalents) are then added simultaneously at an internal temperature of 38 to 43° C. within 60 to 80 minutes, so that the pH is kept between 12 and 12.5. The mixture is stirred at a pH of 12 to 12.5 for 10 minutes, then cooled to 2° C. and stirred at this temperature for 30 minutes. The precipitated product is filtered off and washed twice with 3.3 kg each time of demineralized water at 2° C. The moist product is dried to constant mass at 50° C. under reduced pressure.

reactant | 2-anilinoethanol | 12.0 mol, 1.65 kg | N(C1=CC=CC=C1)CCO | C8H11NO
reactant | water | 4.58 l | O | H2O
reactant | chloroacetyl chloride | 4.07 kg, 3.0 equivalents | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium hydroxide | 6.60 kg, 6.2 equivalents | [OH-].[Na+]
solvent | ethanol | 1.53 l | C(C)O | C2H6O
product | 4-phenyl-3-morpholinone | C1(=CC=CC=C1)N1C(COCC1)=O | C10H11NO2
